US04950677
10.6 g of 5-fluoro-2-benzimidazolethiol were suspended in 570 ml of alcohol and treated with 13.1 g of 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride. A solution of 5 g of sodium hydroxide in 130 ml of water was added dropwise thereto while cooling with ice, the mixture was left to boil at reflux overnight and then concentrated to about 1/3 of the volume in a vacuum. After the addition of 500 ml of water the resulting crystals were filtered off and washed thoroughly firstly with water and then with ether. There was obtained 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole of melting point 128°.

reactant | 5-fluoro-2-benzimidazolethiol | 10.6 g | FC1=CC2=C(N=C(N2)S)C=C1 | C7H5FN2S
reactant | 2-chloromethyl-4-methoxy-3-methylpyridine hydrochloride | 13.1 g | Cl.ClCC1=NC=CC(=C1C)OC
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
solvent | water | 130 ml | O | H2O
product | 5-fluoro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]benzimidazole | FC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2C)OC)C=C1 | C15H14FN3OS
